US04950674
1-[4-(4-Chlorobutoxy)-3-methoxyphenyl]ethanone
A mixture of 16.6 g (0.1 mole) of acetovanillone, 34.3 g (0.2 mole) of 1-bromo-4-chlorobutane and 41.4 g (0.3 mole) of anhydrous potassium carbonate in 500 ml of acetone was heated at reflux for 18 hr. The mixture was cooled, filtered, and the filtrate concentrated under reduced pressure to give an oil which readily crystallized. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration, and dried to yield 24.4 g (95%) of title compound as an off-white solid. An analytical sample, mp 68.5°-70.5° C., was prepared from isopropyl ether.

reactant | acetovanillone | 0.1 mole, 16.6 g | CC(=O)C1=CC(OC)=C(O)C=C1 | C9H10O3
reactant | 1-bromo-4-chlorobutane | 0.2 mole, 34.3 g | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 0.3 mole, 41.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-[4-(4-Chlorobutoxy)-3-methoxyphenyl]ethanone | 24.4 g, 95% | ClCCCCOC1=C(C=C(C=C1)C(C)=O)OC | C13H17ClO3
